US07524862B2
2.1a. 5-bromo-1,3-dihydrobenzimidazol-2-one
4.29 g (26.46 mmol) of carbonyldiimidazole (CDI) is added to a solution of 4.5 g (24.05 mmol) of 4-bromobenzene-1,2-diamine in 95 mL of DMF and the reaction mixture is stirred for 5 hours at 80° C. Then the reaction mixture is poured onto water and the precipitate formed is filtered off. The precipitate is washed three times with water and dried in the circulating air dryer at 60° C. Yield: 4.6 g (90% of theoretical); C7H5BrN2O (M=213.03); calc.: molpeak (M+H)+: 213/215; found: molpeak(M+H)+: 213/215; Rf value: 0.5 (silica gel, DCM/MeOH 10:1).

reactant | carbonyldiimidazole | 26.46 mmol, 4.29 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-bromobenzene-1,2-diamine | 24.05 mmol, 4.5 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
solvent | DMF | 95 mL | CN(C)C=O | C3H7NO
product | 5-bromo-1,3-dihydrobenzimidazol-2-one | BrC1=CC2=C(NC(N2)=O)C=C1 | C7H5BrN2O
